US04299840
A solution of octylmagnesium bromide was prepared by dropping 34.2 g (0.177 mol) of 1-bromoctane in 10 ml of diethyl ether into 6.5 g (0.268 mol) of magnesium in 10 ml of diethyl ether and refluxing for three hours. The solution of the Grignard reagent was transferred under nitrogen to the dropping funnel of a 150 ml three-necked flask additionally fitted with a reflux condenser, a magnetic stirrer and a nitrogen outlet and containing a solution of 15 g (0.118 mol) of N-ethyl-succinimide in 50 ml of absolute tetrahydrofuran. The Grignard reagent was added over a period of two hours. The reaction mixture with the precipitated alcoholate was allowed to stand at room temperature for two days. The suspension was poured into a mixture of ice and 10% H2SO4. After separation of the organic layer, the aqueous phase was extracted with diethyl ether (2 times). The combined organic phases were washed with saturated NaHCO3. After drying with anhydrous Na2SO4 and removing the solvent under reduced pressure, the residue was distilled with a Kugelrohr in vacuo to give 10 g of a yellow oil, 120° C. air bath temperature/0.9 mm Hg. A second fractionated distillation over a Vigreux column yielded 6.6 g pure product, b.p. 130° C./1.0 mm Hg.

reactant | 1-bromoctane | 0.177 mol, 34.2 g | BrCCCCCCCC | C8H17Br
reactant | magnesium | 0.268 mol, 6.5 g | [Mg] | Mg
reactant | N-ethyl-succinimide | 0.118 mol, 15 g | C(C)N1C(CCC1=O)=O | C6H9NO2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | octylmagnesium bromide | C(CCCCCCC)[Mg]Br | InChI=1S/C8H17.BrH.Mg/c1-3-5-7-8-6-4-2;;/h1,3-8H2,2H3;1H;/q;;+1/p-1
